* c:\fossee\esim\library\subcircuitlibrary\4_bit_updown_counter\4_bit_updown_counter.cir

.include jk_mux.sub
x1 net-_u1-pad5_ net-_u1-pad3_ net-_u1-pad3_ net-_u1-pad7_ net-_u1-pad2_ net-_u1-pad4_ net-_u1-pad6_ net-_u1-pad8_ net-_u4-pad1_ jk_mux
x7 net-_u1-pad13_ net-_u11-pad3_ net-_u11-pad3_ net-_u1-pad7_ net-_u1-pad2_ net-_u1-pad4_ net-_u1-pad6_ net-_u1-pad14_ net-_u13-pad1_ jk_mux
x3 net-_u1-pad9_ net-_u5-pad3_ net-_u5-pad3_ net-_u1-pad7_ net-_u1-pad2_ net-_u1-pad4_ net-_u1-pad6_ net-_u1-pad10_ net-_u7-pad2_ jk_mux
x5 net-_u1-pad11_ net-_u8-pad3_ net-_u8-pad3_ net-_u1-pad7_ net-_u1-pad2_ net-_u1-pad4_ net-_u1-pad6_ net-_u1-pad12_ net-_u10-pad1_ jk_mux
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ port
* u2  net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u3  net-_u1-pad1_ net-_u1-pad8_ net-_u3-pad3_ d_and
* u4  net-_u4-pad1_ net-_u2-pad2_ net-_u4-pad3_ d_and
* u5  net-_u3-pad3_ net-_u4-pad3_ net-_u5-pad3_ d_or
* u6  net-_u3-pad3_ net-_u1-pad10_ net-_u6-pad3_ d_and
* u7  net-_u4-pad3_ net-_u7-pad2_ net-_u10-pad2_ d_and
* u8  net-_u6-pad3_ net-_u10-pad2_ net-_u8-pad3_ d_or
* u9  net-_u6-pad3_ net-_u1-pad12_ net-_u11-pad1_ d_and
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_and
* u11  net-_u11-pad1_ net-_u10-pad3_ net-_u11-pad3_ d_or
* u12  net-_u11-pad1_ net-_u1-pad14_ net-_u1-pad15_ d_nand
* u13  net-_u13-pad1_ net-_u10-pad3_ net-_u1-pad16_ d_nand
a1 net-_u1-pad1_ net-_u2-pad2_ u2
a2 [net-_u1-pad1_ net-_u1-pad8_ ] net-_u3-pad3_ u3
a3 [net-_u4-pad1_ net-_u2-pad2_ ] net-_u4-pad3_ u4
a4 [net-_u3-pad3_ net-_u4-pad3_ ] net-_u5-pad3_ u5
a5 [net-_u3-pad3_ net-_u1-pad10_ ] net-_u6-pad3_ u6
a6 [net-_u4-pad3_ net-_u7-pad2_ ] net-_u10-pad2_ u7
a7 [net-_u6-pad3_ net-_u10-pad2_ ] net-_u8-pad3_ u8
a8 [net-_u6-pad3_ net-_u1-pad12_ ] net-_u11-pad1_ u9
a9 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a10 [net-_u11-pad1_ net-_u10-pad3_ ] net-_u11-pad3_ u11
a11 [net-_u11-pad1_ net-_u1-pad14_ ] net-_u1-pad15_ u12
a12 [net-_u13-pad1_ net-_u10-pad3_ ] net-_u1-pad16_ u13
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u5 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u8 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u11 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u12 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u13 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
